US05674811
Production of 4-[5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrophenoxy]-3-oxo-2-(2,4-dichlorophenyl)-pentanenitrile (compound No. 102)
A solution of 0.93 g of 2,4-dichlorophenylacetonitrile in 30 ml of anhydrous tetrahydrofuran (hereinafter abbreviated as "THF") was cooled to -78° C. To this solution was added 3.5 ml of a 1.6Mn BuLi-hexane solution. Then, a THF solution of 2.12 g of 2-[5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrophenoxy]propionic acid chloride was added thereto dropwise. The mixed solution was stirred for 30 minutes, then acidified with a 10% hydrochloric acid aqueous solution, and extracted with ethyl acetate. The ethyl acetate layer was dried over anhydrous magnesium sulfate, filtered and concentrated with a rotary evaporator.

reactant | 2,4-dichlorophenylacetonitrile | 0.93 g | ClC1=C(C=CC(=C1)Cl)CC#N | C8H5Cl2N
reactant | BuLi hexane | 3.5 ml | [Li]CCCC.CCCCCC
reactant | 2-[5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrophenoxy]propionic acid chloride | 2.12 g | ClC1=C(OC=2C=CC(=C(OC(C(=O)Cl)C)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C16H10Cl2F3NO5
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-[5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrophenoxy]-3-oxo-2-(2,4-dichlorophenyl)-pentanenitrile | ClC1=C(OC=2C=CC(=C(OC(C(C(C#N)C3=C(C=C(C=C3)Cl)Cl)=O)C)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C24H14Cl3F3N2O5
